US07402595B2
2-[(benzyloxycarbonyl)(methyl)amino]-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid 2-tert-butoxycarbonylaminoethyl ester
The present compound was synthesized by a method similar to that in Example 200 and using 2-[(benzyloxycarbonyl)(methyl)amino]-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (200 mg) and (2-hydroxyethyl)carbamic acid tert-butyl ester. A colorless powder (120 mg).

reactant | 2-[(benzyloxycarbonyl)(methyl)amino]-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 200 mg | C(C1=CC=CC=C1)OC(=O)N(N1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)Cl)=O)C | C25H19ClN2O5
reactant | (2-hydroxyethyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCO)=O | C7H15NO3
product | 2-[(benzyloxycarbonyl)(methyl)amino]-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid 2-tert-butoxycarbonylaminoethyl ester | C(C)(C)(C)OC(=O)NCCOC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O)N(C)C(=O)OCC1=CC=CC=C1 | C32H32ClN3O7
